Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:5]=[C:6]([H:7])[H:8].[O:1][O:2][C:3]#[C:4]>>[O:1][O:2][C:3]#[C:4][C:5][C:6]([H:7])[H:8],-6.1130589105
[H:1][O:2]/[C:3]([H:4])=[C:5](/[C:6]([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:5](=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11])\[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3][H:4],4.550559960759999
[H:1]/[C:2](=[C:3](/[C:4]([H:5])[H:6])[C:7]([H:8])=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:9]>>[H:1][C:2]([C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-2.30756034565
[H:1][C:2].[O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-5.92971337673
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[O:11][H:12]>>[H:10].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[O:11][H:12],4.703126885630001
[H:1][C:2]#[C:3][C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:10].[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])=[C:11]([H:12])[H:13],1.85958521231
[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])[H:8],3.79307274588
[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:3].[O:1]=[C:2]=[C:4]([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11],2.92727471081
[C:1].[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-6.93451232258
[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:6].[O:1]=[C:2]([C:3]([H:4])=[C:5]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],2.99571910986
[H:12].[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])[H:11]>>[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-4.54201352335
[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:18].[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])[H:17],4.38020209136
[H:13].[H:1][O:2][O:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1][O:2][O:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.5994143884
[H:1][C:2]=[C:3]([H:4])[C:5][C:6]([H:7])([H:8])[O:9][O:10][H:11]>>[C:3]([H:4])#[C:5][C:6]([H:7])([H:8])[O:9][O:10][H:11].[H:1][C:2],3.21843936609
[O:1].[O:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[H:8]>>[O:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[H:8],-0.4647547399989999
[H:1][O:2][C:3]([H:4])[C:12]([C:9]([C:7](=[C:5][H:6])[H:8])([H:10])[H:11])([H:13])[H:14]>>[H:1][O:2][C@@:3]1([H:4])[C:5]([H:6])=[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]1([H:13])[H:14],-3.89360767921
[H:12].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]=[C:10]([H:11])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-1.80902634385
[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-6.448952036980001
[O:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[H:10]>>[H:10].[O:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])[H:9],4.73578156969
[O:1]=[C:2]([O:3][C:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:4][C:5]([H:6])([H:7])[H:8].[O:1]=[C:2]([O:3])[C:9]([H:10])([H:11])[H:12],4.410560880319999
[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]#[C:3][O:4][H:5]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.48251471812
[H:17].[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16]>>[H:1][O:2][C@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-4.53029315208
[C:9]([H:10])([H:11])[O:12][H:13].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][H:8]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[O:12][H:13],-4.73687683833
[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])[O:5][H:6],4.35148416313
[H:1][O:2][C:3]1=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])=[C:11]1[H:12]>>[H:1][O:2][C:3]([C:4]([C:5]([H:6])([H:7])[H:8])=[C:9][H:10])=[C:11][H:12],1.94811988359
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2][C:12]([H:13])([H:14])[H:15].[O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],4.83660808394
